US09303033B2
To tert-butyl 5-(3-(acetamidomethyl)phenyl)-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate (50 mg, 0.111 mmol) was added 1 mL of 4M HCl in 1,4-dioxane and 1 mL of H2O. The reaction mixture was stirred at 80° C. for 16 hours then cooled to room temperature and diluted with H2O. To the reaction mixture, 5M NaOH was added to adjust pH to >10 then the mixture was extracted with CH2Cl2. The organic layer was collected, dried over MgSO4, filtered and evaporated to dryness to provide 24 mg of 5-(3-(aminomethyl)phenyl)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (70%). LCMS (M+1=308)

reactant | tert-butyl 5-(3-(acetamidomethyl)phenyl)-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 0.111 mmol, 50 mg | C(C)(=O)NCC=1C=C(C=CC1)C1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C24H27N5O4
reactant | HCl | 4M, 1 mL | Cl | ClH
reactant | NaOH | 5M | [OH-].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
product | 5-(3-(aminomethyl)phenyl)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 24 mg, 70% | NCC=1C=C(C=CC1)C1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C17H17N5O
